US07091214B2
8-Bromo-1-butyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine and benzeneboronic acid were coupled according to the general procedure described in Part J of Example 1. Chromatography on silica gel (10% methanol in CH2Cl2) followed by recrystallization from isopropanol afforded 1-butyl-2-ethoxymethyl-8-phenyl-1H-imidazo[4,5-c]quinolin-4-amine as an off-white solid, m.p. 186–187° C.

reactant | 8-Bromo-1-butyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCCC)COCC | C17H21BrN4O
reactant | benzeneboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-butyl-2-ethoxymethyl-8-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)N1C(=NC=2C(=NC=3C=CC(=CC3C21)C2=CC=CC=C2)N)COCC | C23H26N4O
